US06107301
N-(2-Bromo-6-hydroxy-4-methoxyphenyl)-N-ethyl-4,6-dimethyl-2-pyrimidinamine
N-(2-Bromo-4,6-dimethoxyphenyl)-N-ethyl-4,6-dimethyl-2-pyrimidinamine (214 mg, 0.58 mmol) in 15 mL dichloromethane under nitrogen was cooled in a dry ice/acetone bath, and boron tribromide (1.0 M in dichloromethane, 0.58 mL) was slowly added. The reaction was allowed gradually to warm to room temperature whereupon it was stirred overnight. After quenching with water, the aqueous portion was basified with saturated sodium bicarbonate and extracted with dichloromethane. The combined extracts were dried with magnesium sulfate and concentrated in vacuo to give a tan solid. The solid was recrystallized form ethyl acetate/hexanes to yield 58 mg product; mp 157-160° C. Anal. Calcd. %C: 51.15: %H: 5.15: %N: 11.93: %Br: 22.69. Found %C: 51.02: %H: 5.10: %N: 11.83: %Br: 22.52.

reactant | N-(2-Bromo-4,6-dimethoxyphenyl)-N-ethyl-4,6-dimethyl-2-pyrimidinamine | 0.58 mmol, 214 mg | BrC1=C(C(=CC(=C1)OC)OC)N(C1=NC(=CC(=N1)C)C)CC | C16H20BrN3O2
reactant | boron tribromide | 1.0 M, 0.58 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | N-(2-Bromo-6-hydroxy-4-methoxyphenyl)-N-ethyl-4,6-dimethyl-2-pyrimidinamine | 58 mg | BrC1=C(C(=CC(=C1)OC)O)N(C1=NC(=CC(=N1)C)C)CC | C15H18BrN3O2
